US08492549B2
1-[1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-ethylpiperidin-3-yl]ethanone
The procedure described for 2-[1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methylpiperidin-3-yl]propan-2-ol was repeated except that 1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-ethylpiperidine-3-carboxylic acid ethyl ester was used as starting material and only one instead of three equivalents of methyl magnesium bromide was used.

reactant | 2-[1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methylpiperidin-3-yl]propan-2-ol | O1C(COC2=C1C=CC=C2)CN2CC(CCC2)(C)C(C)(C)O | C18H27NO3
reactant | 1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-ethylpiperidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CCC1)CC1COC2=C(O1)C=CC=C2)CC | C19H27NO4
reactant | methyl magnesium bromide | three equivalents | C[Mg]Br
product | 1-[1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-ethylpiperidin-3-yl]ethanone | O1C(COC2=C1C=CC=C2)CN2CC(CCC2)(CC)C(C)=O | C18H25NO3
